US04289763
1.90 g of 21-acetoxy-6α,9-dichloro-11β-hydroxy-16α-methyl-1,4-pregnadiene-3,20-dione is dissolved in 53 ml of methanol. The mixture is conbined with 1.7 ml of 70% perchloric acid and allowed to stand for 20 hours at room temperature. The reaction mixture is poured into ice water; the precipitated product is isolated and chromatographed on silica gel. With 37-52% ethyl acetate-dichloromethane, after recrystallization from acetone-diisopropyl ether, 807 mg of 6α,9-dichloro-11β,21-dihydroxy-16α-methyl-1,4-pregnadiene-3,20-dione is obtained, m.p. 230° C. [α]D25 =+99° (chloroform).

reactant | 21-acetoxy-6α,9-dichloro-11β-hydroxy-16α-methyl-1,4-pregnadiene-3,20-dione | 1.90 g | C(C)(=O)OCC([C@H]1[C@@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)Cl)=O)Cl)C)=O | C24H30Cl2O5
reactant | perchloric acid | 1.7 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | methanol | 53 ml | CO | CH4O
product | 6α,9-dichloro-11β,21-dihydroxy-16α-methyl-1,4-pregnadiene-3,20-dione | 807 mg | Cl[C@H]1C[C@H]2[C@@H]3C[C@H]([C@H](C(CO)=O)[C@]3(C[C@@H]([C@@]2([C@]2(C=CC(C=C12)=O)C)Cl)O)C)C | C22H28Cl2O4
